US06855710B2
(Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 82 from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone and 4-(1-tert.butoxycarbonylamino-ethyl)-aniline in DMF and subsequent treatment with sodium hydroxide solution in methanol.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
reactant | 4-(1-tert.butoxycarbonylamino-ethyl)-aniline | C(C)(C)(C)OC(=O)NC(C)C1=CC=C(N)C=C1 | C13H20N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C28H28N4O5
